US07223764B2
1-tert-Butoxycarbonyl-4-(2-hydroxyethyl)piperazine (6.00 g, 26.05 mmol) was dissolved in THF (36 mL), and triethylamine (3.43 g, 33.90 mmol) and 4-dimethylaminopyridine (159 mg, 1.30 mmol) were added thereto. Under cooling with ice, a solution of methanesulfonyl chloride (3.58 g, 31.25 mmol) in THF (9 mL) was added dropwise to the mixture. The resultant mixture was stirred for one hour and then filtrated, and the filtrate was concentrated under reduced pressure. The residue was dissolved in DMF (90 mL). While the solution was stirred at room temperature, 5-fluoro-2-mercaptobenzimidazole (4.82 g, 28.66 mmol), potassium carbonate (5.40 g, 39.07 mmol), and 18-crown-6 (688 mg, 2.60 mmol) were sequentially added to the solution, and the resultant mixture was stirred for two hours at 80° C. The reaction mixture was concentrated under reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The residue was purified through silica gel column chromatography (silica gel 150 g, hexane:ethyl acetate=2:1 to 1:1 to 1:2), to thereby yield 1-tert-butoxycarbonyl-4-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazine (7.28 g, yield 73%).

reactant | 1-tert-Butoxycarbonyl-4-(2-hydroxyethyl)piperazine | 26.05 mmol, 6.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | triethylamine | 33.90 mmol, 3.43 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31.25 mmol, 3.58 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-fluoro-2-mercaptobenzimidazole | 28.66 mmol, 4.82 g | FC1=CC2=C(N=C(N2)S)C=C1 | C7H5FN2S
reactant | potassium carbonate | 39.07 mmol, 5.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 2.60 mmol, 688 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | 36 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 1.30 mmol, 159 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-[2-(5-fluorobenzimidazol-2-ylthio)ethyl]piperazine | 7.28 g, yield 73% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCSC=1NC2=C(N1)C=CC(=C2)F | C18H25FN4O2S
